US04207320
3-(1-Pyrrolidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide.
A mixture of 1.0 g. of 3-chloroimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide, 1.0 ml. of pyrrolidine and 5 ml. of N-methyl-2-pyrrolidinone is stirred and heated at reflux for 17 hours, cooled and diluted with 100 ml. of ethyl acetate. The precipitate of 3-(1-pyrrolidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium iodide is collected by filtration, stirred with 50 ml. of 1% aqueous triethylamine hydroiodide and recollected; m.p. 312°-320° C. after crystallization from methanol.

reactant | 3-chloroimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide | [I-].ClC1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC=CC3C=C1
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1-Pyrrolidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].N1(CCCC1)C1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC=CC3C=C1 | InChI=1S/C23H20N3.HI/c1-2-6-22-17(5-1)7-9-20-16-25-21-11-10-19(24-13-3-4-14-24)15-18(21)8-12-23(25)26(20)22;/h1-2,5-12,15-16H,3-4,13-14H2;1H/q+1;/p-1
